US08133847B2
3-Bromo-2-chloro-6-fluoro-toluene (8.0 g), N-bromosuccinimide (NBS) (6.42 g) and a catalytic amount of benzoyl peroxide in carbon tetrachloride (40 ml) were heated to reflux. A 500 watt tungsten halogen lamp was used to initiate the reaction. The reaction mixture was heated to reflux and irradiated for 30 minutes. The reaction mixture was allowed to cool and then filtered. The filtrate was concentrated to give a colourless oil which solidified on standing to give 1-bromo-3-bromomethyl-2-chloro-4-fluorobenzene as an off-white solid (10.7 g).

reactant | 3-Bromo-2-chloro-6-fluoro-toluene | 8.0 g | BrC=1C(=C(C(=CC1)F)C)Cl | C7H5BrClF
reactant | N-bromosuccinimide | 6.42 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 40 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-bromo-3-bromomethyl-2-chloro-4-fluorobenzene | 10.7 g | BrC1=C(C(=C(C=C1)F)CBr)Cl | C7H4Br2ClF
